US08426411B2
To tert-butyl (1R,3R)-3-(2-(5-tosyl-5H-pyrrolo[2,3-b]pyrazin-2-yl)hydrazinecarbonyl)cyclo-pentylcarbamate (5.03 g, 9.78 mmol) in 1,4-dioxane (103 mL) was added DIEA (7.2 mL, 41 mmol) and SOCl2 (2.3 mL, 31 mmol). The reaction mixture was heated at about 80° C. for about 1 h. The solvent was removed under reduced pressure and the residue was purified using silica gel chromatography (330 g) eluting with a gradient of 0-20% MeOH in DCM to give (1R,3R)-3-(6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentanamine (2.65 g, 68%): LC/MS (Table 1, Method b) Rt=1.55 min; MS m/z: 397 (M+H)+.

reactant | tert-butyl (1R,3R)-3-(2-(5-tosyl-5H-pyrrolo[2,3-b]pyrazin-2-yl)hydrazinecarbonyl)cyclo-pentylcarbamate | 9.78 mmol, 5.03 g | S(=O)(=O)(C1=CC=C(C)C=C1)N1C=CC=2C1=NC=C(N2)NNC(=O)[C@H]2C[C@@H](CC2)NC(OC(C)(C)C)=O | C24H30N6O5S
reactant | DIEA | 41 mmol, 7.2 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | SOCl2 | 31 mmol, 2.3 mL | O=S(Cl)Cl | Cl2OS
solvent | 1,4-dioxane | 103 mL | O1CCOCC1 | C4H8O2
product | (1R,3R)-3-(6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentanamine | 2.65 g, 68% | S(=O)(=O)(C1=CC=C(C)C=C1)N1C=CC2=C1N=CC=1N2C(=NN1)[C@H]1C[C@@H](CC1)N | C19H20N6O2S
